### PR TITLE
[Merged by Bors] - feat: von Neumann Mean Ergodic Theorem

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #6943
- [x] depends on: #6942
- [x] depends on: #6938

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/BirkhoffSum/NormedSpace.lean [hunk 1]
```diff
@@ -0,0 +1,102 @@
...
+      (∑ k in Finset.range n, dist (g (f^[k] x)) (g (f^[k] y))) / n :=
+  (dist_birkhoffAverage_birkhoffAverage _ _ _ _ _ _).trans_le <| by
+    gcongr; apply dist_birkhoffSum_birkhoffSum_le
+
+theorem dist_birkhoffAverage_apply_birkhoffAverage (f : α → α) (g : α → E) (n : ℕ) (x : α) :
+    dist (birkhoffAverage 𝕜 f g n (f x)) (birkhoffAverage 𝕜 f g n x) =
+      dist (g (f^[n] x)) (g x) / n := by
+  simp [dist_birkhoffAverage_birkhoffAverage, dist_birkhoffSum_apply_birkhoffSum]
+
+theorem tendsto_birkhoffAverage_apply_sub_birkhoffAverage {f : α → α} {g : α → E} {x : α}
```
Comment (sgouezel) [inline Mathlib/Dynamics/BirkhoffSum/NormedSpace.lean:64]: Can you add a docstring to this one, like `if a function `g` is bounded along the positive orbit of `x` under `f`, then ...`? Also, can you add a version assuming that the range of `g` is globally bounded (not only along the orbit)?

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+
+local notation "⟪" x ", " y "⟫" => @inner 𝕜 _ _ x y
+
+theorem LinearIsometry.tendsto_birkhoffAverage_orthogonalProjection (f : E →ₗᵢ[𝕜] E) (x : E) :
+    Tendsto (birkhoffAverage 𝕜 f _root_.id · x) atTop
+      (𝓝 <| orthogonalProjection (LinearMap.eqLocus f 1) x) := by
+  apply (f : E →ₗ[𝕜] E).tendsto_birkhoffAverage_of_ker_subset_closure f.lipschitz
+  · exact orthogonalProjection_mem_subspace_eq_self (K := LinearMap.eqLocus f 1)
+  · clear x
+    -- In fact, these two submodules are equal. TODO: move it to a lemma
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean:59]: can you implement the TODO?

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+Authors: Yury Kudryashov
+-/
+import Mathlib.Analysis.InnerProductSpace.Projection
+import Mathlib.Dynamics.BirkhoffSum.NormedSpace
+
+/-!
+# Mean Ergodic Theorem in a Hilbert Space
+
+In this file we prove the von Neumann Mean Ergodic Theorem for an operator in a Hilbert space.
+It says that for a linear isometry `f : E →ₗᵢ[𝕜] E` of a Hilbert space,
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean:13]: You don't need a linear isometry, it is enough to have a contraction (i.e., an operator with norm at most 1). See for instance Krengel, Ergodic Theorems, Theorem 1.4 on Page 4.

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
...
+  refine closure_minimal (Set.forall_range_iff.2 fun x ↦ ?_) this (hg_ker hy)
+  have : Metric.Bounded (Set.range (_root_.id <| f^[·] x)) :=
+    bounded_iff_forall_norm_le.2 ⟨‖x‖, Set.forall_range_iff.2 fun n ↦ by
+      have H : f^[n] 0 = 0 := (f : E →+ E).iterate_map_zero n
+      simpa [H] using (hf.iterate n).dist_le_mul x 0⟩
+  have H : ∀ n x y, f^[n] (x - y) = f^[n] x - f^[n] y := (f : E →+ E).iterate_map_sub
+  simpa [birkhoffAverage, birkhoffSum, Finset.sum_sub_distrib, smul_sub, H]
+    using tendsto_birkhoffAverage_apply_sub_birkhoffAverage 𝕜 this
+
+variable  [InnerProductSpace 𝕜 E] [CompleteSpace E]
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean:49]:
```suggestion
variable [InnerProductSpace 𝕜 E] [CompleteSpace E]
```

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean [hunk 5]
```diff
@@ -0,0 +1,67 @@
...
+converge to the orthogonal projection of `x` to the subspace of fixed points of `f`,
+see `LinearIsometry.tendsto_birkhoffAverage_orthogonalProjection`.
+-/
+
+open Filter Finset Function
+open scoped BigOperators Topology
+
+variable {𝕜 E : Type _} [IsROrC 𝕜] [NormedAddCommGroup E]
+
+theorem LinearMap.tendsto_birkhoffAverage_of_ker_subset_closure [NormedSpace 𝕜 E]
```
Comment (sgouezel) [inline Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean:27]: This theorem and the next one would deserve docstrings.

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean]: Generalized.

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean]: Is it true for a contracting map? I removed TODO because I'm not sure that the other inequality is true in this case.

File: Mathlib/Dynamics/BirkhoffSum/NormedSpace.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Dynamics/BirkhoffSum/NormedSpace.lean:73]: can you add a version assuming that the range of `g` is globally bounded (not only along the orbit)?

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean [hunk 6]
```diff
@@ -0,0 +1,89 @@
...
+local notation "⟪" x ", " y "⟫" => @inner 𝕜 _ _ x y
+
+/-- **Von Neumann Mean Ergodic Theorem** for an operator in a Hilbert space.
+For a contracting linear self-map `f : E →ₗ[𝕜] E` of a Hilbert space,
+the Birkhoff averages
+```
+birkhoffAverage 𝕜 f id N x = (N : 𝕜)⁻¹ • ∑ n in Finset.range N, f^[n] x
+```
+converge to the orthogonal projection of `x` to the subspace of fixed points of `f`. -/
+theorem ContinuousLinearMap.tendsto_birkhoffAverage_orthogonalProjection (f : E →L[𝕜] E)
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean:76]: We need `ContinuousLinearMap` to define the orthogonal projection.

[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean:76]: Ha, yes. Then maybe use `f : E →L[𝕜] E` also in the docstring. And I feel that the norm assumption is more natural than the `LipschitzWith` assumption.

File: Mathlib/Dynamics/BirkhoffSum/NormedSpace.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Dynamics/BirkhoffSum/NormedSpace.lean:75]: Added as a primed version. Feel free to rename.

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean [hunk 7]
```diff
@@ -0,0 +1,89 @@
...
+-/
+theorem LinearMap.tendsto_birkhoffAverage_of_ker_subset_closure [NormedSpace 𝕜 E]
+    (f : E →ₗ[𝕜] E) (hf : LipschitzWith 1 f) (g : E →L[𝕜] LinearMap.eqLocus f 1)
+    (hg_proj : ∀ x : LinearMap.eqLocus f 1, g x = x)
+    (hg_ker : (LinearMap.ker g : Set E) ⊆ closure (LinearMap.range (f - 1))) (x : E) :
+    Tendsto (birkhoffAverage 𝕜 f _root_.id · x) atTop (𝓝 (g x)) := by
+  obtain ⟨y, hy, z, hz, rfl⟩ : ∃ y, g y = 0 ∧ ∃ z, IsFixedPt f z ∧ x = y + z :=
+    ⟨x - g x, by simp [hg_proj], g x, (g x).2, by simp⟩
+  suffices : Tendsto (birkhoffAverage 𝕜 f _root_.id · y) atTop (𝓝 0)
+  · have hgz : g z = z := congr_arg Subtype.val (hg_proj ⟨z, hz⟩)
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean]: Doesn't work with `:` after `suffices`, fixed.

File: Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean [hunk 8]
```diff
@@ -0,0 +1,89 @@
...
+the Birkhoff averages
+```
+birkhoffAverage 𝕜 f id N x = (N : 𝕜)⁻¹ • ∑ n in Finset.range N, f^[n] x
+```
+converge to the orthogonal projection of `x` to the subspace of fixed points of `f`. -/
+theorem ContinuousLinearMap.tendsto_birkhoffAverage_orthogonalProjection (f : E →L[𝕜] E)
+    (hf : LipschitzWith 1 f) (x : E) :
+    Tendsto (birkhoffAverage 𝕜 f _root_.id · x) atTop
+      (𝓝 <| orthogonalProjection (LinearMap.eqLocus f 1) x) := by
+  apply (f : E →ₗ[𝕜] E).tendsto_birkhoffAverage_of_ker_subset_closure hf
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Analysis/InnerProductSpace/MeanErgodic.lean]: Done.

**Review by sgouezel — COMMENTED** [review]
bors r+
Thanks!
